US07420001B2
To 2-amino-4-trifluoromethyl-benzenethiol (0.7 g) was added ethyl triethoxyacetate (3 eq). The mixture was stirred at 110° C. overnight. The reaction mixture was cooled and triturated with hexane. Filtration gave 460 mg of 5-trifluoromethyl-benzothiazole-2-carboxylic acid ethyl ester as a white solid.

reactant | 2-amino-4-trifluoromethyl-benzenethiol | 0.7 g | NC1=C(C=CC(=C1)C(F)(F)F)S | C7H6F3NS
reactant | ethyl triethoxyacetate | 3 eq | C(C)OC(C(=O)OCC)(OCC)OCC | C10H20O5
product | 5-trifluoromethyl-benzothiazole-2-carboxylic acid ethyl ester | 460 mg | C(C)OC(=O)C=1SC2=C(N1)C=C(C=C2)C(F)(F)F | C11H8F3NO2S
